US07585868B2
Synthesis of 3-o-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK134).
1-tert-butyl-3-o-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine was dissolved in a solution of formic acid (2 mL) and conc. HCl (0.2 mL) and heated to reflux for 30 min. Reaction was concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 226.1, found 226.3.

reactant | 1-tert-butyl-3-o-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C(C)(C)(C)N1N=C(C=2C1=NC=NC2N)C2=C(C=CC=C2)C | C16H19N5
solvent | formic acid | 2 mL | C(=O)O | CH2O2
solvent | HCl | 0.2 mL | Cl | ClH
product | 3-o-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C1(=C(C=CC=C1)C1=NNC2=NC=NC(=C21)N)C | C12H11N5
